* Z:\mnt\design.r\spice\examples\3402.asc
R1 N006 0 30K
R2 N004 N003 82K
C1 N003 0 470p
C2 N004 0 4.7p
V1 IN 0 3
L1 IN N001 2.2µ
R3 N005 0 549K
R4 OUT N005 909K
C3 OUT 0 22µ Rser=.1
Rload OUT 0 6
R6 IN N002 100K
XU1 N006 0 IN N001 0 N002 OUT N005 N004 IN LTC3402
.tran 250u startup
.lib LTC3402.sub
.backanno
.end
